US07115611B2
E] [rac]-[2-(3-Methoxy-propyl)-4-(methyl-{1-[2-methyl-6-(3-trifluoromethyl-phenyl)-pyridin-3-yl]-ethyl}-amino)-phenoxy-acetic acid
0.015 g (0.03 mmol) of the above prepared [rac]-[2-(3-methoxy-propyl)-4-(methyl-{1-[2-methyl-6-(3-trifluoromethyl-phenyl)-pyridin-3-yl]-ethyl}-amino)-phenoxy]-acetic acid ethyl ester was dissolved in 0.2 ml of THF/EtOH=1/1, treated with 0.09 ml (3 eq.) of 1N NaOH, and kept at ambient temperature for 0.5 h. The reaction mixture was then poured onto crashed ice/AcOEt/HCl dil., the organic layer washed with water and brine, dried over sodium sulfate, and evaporated to dryness to leave 0.012 g of the title compound as light brown oil.

reactant | [rac]-[2-(3-methoxy-propyl)-4-(methyl-{1-[2-methyl-6-(3-trifluoromethyl-phenyl)-pyridin-3-yl]-ethyl}-amino)-phenoxy]-acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)N(C(C)C=1C(=NC(=CC1)C1=CC(=CC=C1)C(F)(F)F)C)C)CCCOC)=O | C30H35F3N2O4
reactant | NaOH | 1N, 0.09 ml, 3 eq. | [OH-].[Na+]
solvent | THF EtOH | 0.2 ml | C1CCOC1.CCO
product | 2-(3-Methoxy-propyl)-4-(methyl-{1-[2-methyl-6-(3-trifluoromethyl-phenyl)-pyridin-3-yl]-ethyl}-amino)-phenoxy-acetic acid | 0.012 g | COCCCC1=C(OCC(=O)O)C=CC(=C1)N(C(C)C=1C(=NC(=CC1)C1=CC(=CC=C1)C(F)(F)F)C)C | C28H31F3N2O4
